data/specific_train_final.csv
"CCCCC([CH2:10])O.[O:20][O]>>CCCCC([CH2:10][O:20][O])O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"C(C(Cl)Cl)[O:21][O:20][O].[N+](=O)[O-]>>C(C(Cl)Cl)[O:21].[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CCOC(CO)O[O:20].[N+](=O)([O-])[O:10]>>CCOC(CO)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"CC1(C2CC1C(C(C2)[O:20][O:21]N=O)(C)O)C>>CC1(C2CC1C(C(C2)[O:20])(C)O)C.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC1=C(C=CC=C1)COO[O:20][N+:21](=O)[O-]>>CC1=C(C=CC=C1)COO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(=CCCl)C[O:20][O:21]N=O>>CC(=CCCl)C[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC1=CCC(CC1O)C(C)(C)OO[O:20][N+:21](=O)[O-]>>CC1=CCC(CC1O)C(C)(C)OO[O:20].[N+:21](=O)[O-] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)C(CO)O[O:20].[N+](=O)([O-])[O:10]>>CC(C)C(CO)O[O:20][O:10][N+](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:1][C:2]1([CH2:3][CH:4]2[CH:5]1[CH2:6][CH2:7][C:8]([CH:9]([CH2:10][CH2:11][C:12]2=[CH2:13])[OH:14])([CH3:15])[O:16][O:17][O:18][N+:19](=[O:20])[O-:21])[CH3:22]>>[CH3:1][C:2]1([CH2:3][CH:4]2[CH:5]1[CH2:6][CH2:7][C:8]([CH:9]([CH2:10][CH2:11][C:12]2=[CH2:13])[OH:14])([CH3:15])[O:16][O:17][O:18])[CH3:22].[N+:19](=[O:20])[O-:21] 18,19-18; 18,19-19",Room Temperature,Initiation,homolyze
"[CH3:14][CH2:13][CH2:12][CH:6]([CH2:7][O:8][N+:9](=[O:11])[O-:10])[O:5][O:4][O:3][N+:2](=[O:1])[O-:15]>>[CH3:14][CH2:13][CH2:12][CH:6]([CH2:7][O:8][N+:9](=[O:11])[O-:10])[O:5][O:4][O:3].[N+:2](=[O:1])[O-:15] 3,2-2; 3,2-3",Room Temperature,Initiation,homolyze
"C[C:20]1=[CH:21]CC(CC1)C(=C)C.[OH:10]>>CC(=C)C1CC[C:20]([CH:21]C1)(C)[OH:10] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,addition
"CC(C)(C1CCC(=CC1)CO)[O:20].[N+:10](=O)[O-]>>CC(C)(C1CCC(=CC1)CO)[O:20][N+:10](=O)[O-] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:4][C:3]([CH:2]=[O:1])([CH:7]([O:12][OH:13])[CH2:8][O:9][O:10])[O:5][OH:6].[N:14]=[O:15]>>[CH3:4][C:3]([CH:2]=[O:1])([CH:7]([O:12][OH:13])[CH2:8][O:9][O:10][N:14]=[O:15])[O:5][OH:6] 10-10,14; 14-10,14",Room Temperature,Termination,recombine
"[CH3:8][CH2:7][CH:6]([CH2:9][CH:10]=[O:11])[O:5][O:4][O:3][N+:2](=[O:12])[O-:1]>>[CH3:8][CH2:7][CH:6]([CH2:9][CH:10]=[O:11])[O:5][O:4][O:3].[N+:2](=[O:12])[O-:1] 2,3-2; 2,3-3",Room Temperature,Initiation,homolyze
"CC(C)(C(C[O:21][O:20][O])O)O.[N+](=O)[O-]>>CC(C)(C(C[O:21])O)O.[N+](=O)[O-].[O:20][O] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC[C:10](C)OC(=O)C.[O:20][O]>>CC[C:10](C)(OC(=O)C)[O:20][O] 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH3:1][CH2:2][CH:3]([CH:4]([CH3:5])[CH3:6])[O:7][O:8][O:9][N+:10](=[O:11])[O-:12]>>[CH3:1][CH2:2][CH:3]([CH:4]([CH3:5])[CH3:6])[O:7][O:8][O:9].[N+:10](=[O:11])[O-:12] 9,10-10; 9,10-9",Room Temperature,Initiation,homolyze
"CCC1(C(O1)(C)C([CH:10]C=O)O)C=O.[O:20][O]>>CCC1(C(O1)(C)C([CH:10](C=O)[O:20][O])O)C=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[CH2:1]=[C:2](C)[CH:3]([O:10][O:11][N:20]=[O:21])[CH2:4][OH:5]>>[CH2:1]=[C:2](C)[CH:3]([O:10])[CH2:4][OH:5].[O:11][N:20]=[O:21] 10,11-11;10,11-10",Room Temperature,Initiation,homolyze
"C(C(O)(Cl)Cl)[O:20][O:21]N=O>>C(C(O)(Cl)Cl)[O:20].N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"[H:20][O:21][O].CC(C)OC(C)CO[O:10]>>[H:20][O:10]OCC(C)OC(C)C.[O:21][O] 10-10,20;20,21-10,20;20,21-21",Room Temperature,Propagation,abstraction
"[CH2:1]=[CH:2][CH:3]=[CH2:4].[N+:6](=[O:5])([O-:8])[O:7]>>[CH2:4][CH:3]=[CH:2][CH2:1][O:7][N+:6](=[O:5])[O-:8] 7-1,7; 1,2-1,7; 1,2-2,3; 4,3-2,3; 4,3-4",Room Temperature,Propagation,addition
"CC(C)(C(C[O:20][O:21]N=O)O)O>>CC(C)(C(C[O:20])O)O.N(=O)[O:21] 20,21-20;20,21-21",Room Temperature,Initiation,homolyze
"CC(C)C12C=CC(C(C1O)OO2)O[O:20].[N:10]=O>>CC(C)C12C=CC(C(C1O)OO2)O[O:20][N:10]=O 10-10,20;20-10,20",Room Temperature,Termination,recombine
"[H:6][O:5][CH2:4][CH:3][CH:2]=[O:1].[O:7][O:8]>>[H:6][O:5][CH2:4][CH:3]([CH:2]=[O:1])[O:7][O:8] 3-3,7; 7-7,3",Room Temperature,Termination,recombine
"[CH3:1][C:2]1[CH:3]2[CH2:4][CH:5]([C:9]2([CH3:10])[CH3:11])[CH2:6][CH:7]1[OH:8]>>[CH3:1][C:2]1=[CH:3][CH2:4][CH:5]([CH2:6][CH:7]1[OH:8])[C:9]([CH3:10])[CH3:11] 2-2,3;9,3-2,3;9,3-9",Room Temperature,Propagation,retroaddition
"[CH3:1][C:2]1=[CH:3][CH2:4][CH2:5][C:6]([CH:7]2[CH2:8][C:9]([CH:10]2[CH2:11][CH2:12]1)([CH3:13])[CH3:14])([CH2:15][OH:16])[O:17][O:18][O:19][N+:20](=[O:21])[O-:22]>>[CH3:1][C:2]1=[CH:3][CH2:4][CH2:5][C:6]([CH:7]2[CH2:8][C:9]([CH:10]2[CH2:11][CH2:12]1)([CH3:13])[CH3:14])([CH2:15][OH:16])[O:17][O:18][O:19].[N+:20](=[O:21])[O-:22] 19,20-20; 19,20-19",Room Temperature,Initiation,homolyze
